US06921763B2
To a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (5.610 g, 21.49 mmol) in tetrahydrofuran (200 mL) was added rac-tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate (6.039 g, 32.25 mmol), triphenylphosphine (11.273 g, 42.98 mmol), and diethyl azodicarboxylate (7.485 g, 6.77 mL, 42.98 mmol). The reaction mixture was stirred at room temperature for 6 days and then concentrated to afford an orange-brown oil. Acetone (100 mL) and 5 N hydrochloric acid (50 mL) were added and the solution was heated at 40° C. for 18 h and then cooled to room temperature. The resulting yellow precipitate was filtered, and the filter cake was washed with diethyl ether and dried to afford rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride as an off-white solid (5.153 g, 65%). RP-HPLC Rt 4.079 min, 99% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 331 (MH+).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 21.49 mmol, 5.610 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | rac-tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate | 32.25 mmol, 6.039 g | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triphenylphosphine | 42.98 mmol, 11.273 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 42.98 mmol, 6.77 mL, 7.485 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 5 N, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | Acetone | 100 mL | CC(=O)C | C3H6O
product | rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride | 5.153 g, 65% | Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCC2 | InChI=1S/C9H11IN6.ClH/c10-7-6-8(11)13-4-14-9(6)16(15-7)5-1-2-12-3-5;/h4-5,12H,1-3H2,(H2,11,13,14);1H
